US09376420B2
Step 1: 3′-ethoxy-biphenyl-4-carbaldehyde
4-Bromobenzaldehyde (4.0 g, 21.6 mmol), 3-ethoxyphenylboronic acid (4.0 g, 21.6 mmol), a 2N sodium carbonate solution (216.0 mL, 216.0 mmol), and Pd(dppf)Cl2 (1.6 g, 2.2 mmol) were added to N,N-dimethylformamide (216.0 mL). The reaction mixture was stirred at 80° C. for 3 hours and then filtered through celite pad. Distilled water was added to the filtrate, which was then extracted with ethyl acetate. The extract was washed with brine, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/5) to give 4.6 g of the titled compound as a pale yellow liquid.

reactant | 4-Bromobenzaldehyde | 21.6 mmol, 4.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 3-ethoxyphenylboronic acid | 21.6 mmol, 4.0 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | sodium carbonate | 216.0 mmol, 2N, 216.0 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | 2.2 mmol, 1.6 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | N,N-dimethylformamide | 216.0 mL | CN(C=O)C | C3H7NO
product | 3′-ethoxy-biphenyl-4-carbaldehyde | 4.6 g | C(C)OC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C15H14O2
